US05024998
Preparation of N-(2-Hydroxyethyl)-3-pyridinecarboxamide
A solution of 49.2 g (0.32525 mol) ethyl nicotinate and 72 g (1.17 mol) ethanolamine was heated at 70° C. for 60 hours. The excess ethanolamine was removed under reduced pressure and the resulting viscous cream oil was stirred with ether for 48 hours. The resulting white solid was removed by filtration, affording 46 g (85.1%) of the title compound melting at 75°-78° C.

reactant | ethyl nicotinate | 0.32525 mol, 49.2 g | C(C1=CN=CC=C1)(=O)OCC | C8H9NO2
reactant | ethanolamine | 1.17 mol, 72 g | C(O)CN | C2H7NO
product | N-(2-Hydroxyethyl)-3-pyridinecarboxamide | 46 g, 85.1% | OCCNC(=O)C=1C=NC=CC1 | C8H10N2O2
